US07053117B2
3-Cyano-2,7,8-triamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene
To a mixture of 5-bromoveratraldehyde (980 mg, 4.0 mmol) and malononitrile (246 mg, 4.0 mmol) in ethanol (10 mL) was added piperidine (0.4 mL) and 2,3-diaminophenol (496 mg, 4.0 mmol). The mixture was stirred at room temperature under argon for 2 h then diluted with water (20 mL). The precipitate was filtered to yield brown solid, yielding 1.367 g (85%) of the title compound. 1H NMR (CD3OD): 6.25 (s, 1H), 6.18 25 (s, 1H), 6.34 (d, J=7.8, 1H), 6.10 (d, J=7.8, 1H), 4.43 (s, 1H), 3.68 (s, 3H), 3.64 (s, 3H).

reactant | 5-bromoveratraldehyde | 4.0 mmol, 980 mg | BrC=1C(=C(C=C(C=O)C1)OC)OC | C9H9BrO3
reactant | malononitrile | 4.0 mmol, 246 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 0.4 mL | N1CCCCC1 | C5H11N
reactant | 2,3-diaminophenol | 4.0 mmol, 496 mg | NC1=C(C=CC=C1N)O | C6H8N2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
product | 3-Cyano-2,7,8-triamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | 1.367 g, 85% | C(#N)C1=C(OC2=C(C(=CC=C2C1C1=CC(=C(C(=C1)OC)OC)Br)N)N)N | C18H17BrN4O3
